US05011947
Ethyl 2-cyclohexyl-3,3-bis(4-fluorophenyl)propenoate
A mixture of ethyl 2-cyclohexyl-3,3-bis(4-fluorophenyl)-3-hydroxypropionate (15.0 g, 38.6 mmol) and p-toluenesulfonic acid (2.5 g) in 250 mL of toluene was heated at reflux for 2 hours. The mixture was cooled, washed with water and saturated sodium bicarbonate solution, dried over magnesium sulfate and concentrated in vacuo. The residue was crystallized from hexane to give 13.3 g of the title compound; m.p. =50°-55° C.

reactant | ethyl 2-cyclohexyl-3,3-bis(4-fluorophenyl)-3-hydroxypropionate | 38.6 mmol, 15.0 g | C1(CCCCC1)C(C(=O)OCC)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C23H26F2O3
reactant | p-toluenesulfonic acid | 2.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-cyclohexyl-3,3-bis(4-fluorophenyl)propenoate | 13.3 g | C1(CCCCC1)C(C(=O)OCC)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C23H24F2O2
